US05106861
Step D: α,α-Diethoxymethyl-β-tert-butoxycarbonylamino-1-naphthalenepropanol
A solution of α,α-diethoxymethyl-β-amino-1-naphthalenepropanol (6.37 g), di-tert-butyl dicarbonate (4.73 g) in methanol (120 ml) was stirred at room temperature for 13/4 hours. The mixture was concentrated under reduced pressure and the residue was chromatographed [silica gel 280 g, elution with ethyl acetate:cyclohexane, 1:9 (1 1) and 2:8 (3 1)]. Two isomers of the title compound were isolated as oils, isomer A (3.15 g) and isomer B (2.81 g). Rf isomer A=0.52, Rf isomer B=0.45 (silica gel, ethyl acetate:cyclohexane, 1:1). These oils could be crystallized from pentane. m.p. isomer A 93° C., isomer B 102° C.

reactant | α,α-diethoxymethyl-β-amino-1-naphthalenepropanol | 6.37 g | C(C)OCC(C(CC1=CC=CC2=CC=CC=C12)N)(O)COCC | C19H27NO3
reactant | di-tert-butyl dicarbonate | 4.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 120 ml | CO | CH4O
product | α,α-Diethoxymethyl-β-tert-butoxycarbonylamino-1-naphthalenepropanol | C(C)OCC(C(CC1=CC=CC2=CC=CC=C12)NC(=O)OC(C)(C)C)(O)COCC | C24H35NO5
